US04716238
Preparation of 5-methoxy-7-isobutoxy-2,2-dimethyl-2H-chromene
A mixture of 3.9 g (20 millimoles) of 3-methoxy-5-isobutoxy-phenol, 2.8 g (20 millimoles) of 1,3-dichloro-3-methyl-butane and 0.26 g (1 millimole) of bis-(acetyl-acetonato)-nickel is heated at 125° C. for 8 hours. The mixture is cooled, the solvent removed, the residue taken up in 40 ml of anhydrous benzene and 0.8 g (3.5 millimoles) of DDQ (dichloro-dicyano-benzoquinone) are added. The mixture is heated to boiling for 60 hours. The solution is filtered, the filtrate evaporated and the residue purified as described in Example 3. Thus 3.6 of the desired compound are obtained in the form of a colorless oil, yield 69%.

reactant | 3-methoxy-5-isobutoxy-phenol | 20 millimoles, 3.9 g | COC=1C=C(C=C(C1)OCC(C)C)O | C11H16O3
reactant | 1,3-dichloro-3-methyl-butane | 20 millimoles, 2.8 g | ClCCC(C)(C)Cl | C5H10Cl2
reactant | DDQ | 3.5 millimoles, 0.8 g | ClC1=C(C(C(=C(C1=O)C#N)C#N)=O)Cl | C8Cl2N2O2
catalyst | bis-(acetyl-acetonato)-nickel | 1 millimole, 0.26 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
product | 5-methoxy-7-isobutoxy-2,2-dimethyl-2H-chromene | yield 69% | COC1=C2C=CC(OC2=CC(=C1)OCC(C)C)(C)C | C16H22O3
